US05130485
D. 1-[2-(2-propynylthio)phenyl]prop-2-en-1-ol
To 35.2 g of 2-(2-propynylthio)benzaldehyde in dry THF cooled to between -60° and -70° C. was added 210 ml of a 1M solution of vinylmagnesium bromide solution dropwise at -60° C. and the reaction mixture allowed to warm to room temperature. The reaction mixture was poured into saturated NH4Cl and extracted twice with diethyl ether. The extracts are washed with water and then brine and dried over MgSO4 to afford 42.1 g of the subtitle compound.

reactant | 2-(2-propynylthio)benzaldehyde | 35.2 g | C(C#C)SC1=C(C=O)C=CC=C1 | C10H8OS
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-(2-propynylthio)phenyl]prop-2-en-1-ol | 42.1 g | C(C#C)SC1=C(C=CC=C1)C(C=C)O | C12H12OS
